### PR TITLE
feat: upstream definition of Rat from Batteries

### PR DESCRIPTION
**Pull request by kim-em**
This PR upstreams the definition of Rat from Batteries, for use in our planned interval arithmetic tactic.

### CODE REVIEW

**Comment by kim-em** [comment]
Currently draft, pending me understanding how to use the module system.

File: src/Init/Data/Nat/Coprime.lean [hunk 1]
```diff
@@ -0,0 +1,194 @@
+/-
+Copyright (c) 2014 Jeremy Avigad. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jeremy Avigad, Leonardo de Moura, Mario Carneiro
+-/
+module
+prelude
+import Init.Data.Nat.Gcd
```
Comment (Rob23oba) [inline src/Init/Data/Nat/Coprime.lean]:
```suggestion
public import Init.Data.Nat.Gcd

public section
```

File: src/Init/Data/Nat/Coprime.lean [hunk 2]
```diff
@@ -0,0 +1,194 @@
...
+namespace Nat
+
+/-!
+### `coprime`
+
+See also `nat.coprime_of_dvd` and `nat.coprime_of_dvd'` to prove `nat.Coprime m n`.
+-/
+
+/-- `m` and `n` are coprime, or relatively prime, if their `gcd` is 1. -/
+@[reducible] def Coprime (m n : Nat) : Prop := gcd m n = 1
```
Comment (Rob23oba) [inline src/Init/Data/Nat/Coprime.lean]:
```suggestion
@[reducible, expose] def Coprime (m n : Nat) : Prop := gcd m n = 1
```

File: src/Init/Data/Nat/Coprime.lean [hunk 3]
```diff
@@ -0,0 +1,194 @@
...
+# Definitions and properties of `coprime`
+-/
+
+namespace Nat
+
+/-!
+### `coprime`
+
+See also `nat.coprime_of_dvd` and `nat.coprime_of_dvd'` to prove `nat.Coprime m n`.
+-/
```
Comment (Rob23oba) [inline src/Init/Data/Nat/Coprime.lean:21]: This seems inaccurate, since the two lemmas mentioned are in mathlib. Maybe we should remove this then?

File: src/Init/Data/Nat/Coprime.lean [hunk 4]
```diff
@@ -0,0 +1,194 @@
...
+
+/-- `m` and `n` are coprime, or relatively prime, if their `gcd` is 1. -/
+@[reducible] def Coprime (m n : Nat) : Prop := gcd m n = 1
+
+-- if we don't inline this, then the compiler computes the GCD even if it already has it
```
Comment (Rob23oba) [inline src/Init/Data/Nat/Coprime.lean:26]: I'm not certain this is accurate anymore; maybe this is worth testing?

File: src/Init/Data/Nat/Coprime.lean [hunk 5]
```diff
@@ -0,0 +1,194 @@
...
+      (Nat.div_mul_cancel (gcd_dvd_right m n)).symm⟩
+
+theorem exists_coprime' (H : 0 < gcd m n) :
+    ∃ g m' n', 0 < g ∧ Coprime m' n' ∧ m = m' * g ∧ n = n' * g :=
+  let ⟨m', n', h⟩ := exists_coprime m n; ⟨_, m', n', H, h⟩
+
+theorem Coprime.mul_left (H1 : Coprime m k) (H2 : Coprime n k) : Coprime (m * n) k :=
+  (H1.gcd_mul_left_cancel n).trans H2
+
+
```
Comment (Rob23oba) [inline src/Init/Data/Nat/Coprime.lean]:
```suggestion
```
Seems weird to have a gap in between two related theorems

File: src/Init/Data/Rat.lean [hunk 6]
```diff
@@ -0,0 +1,9 @@
+/-
+Copyright (c) 2025 Lean FRO, LLC. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Kim Morrison
+-/
+module
+prelude
+import Init.Data.Rat.Basic
+import Init.Data.Rat.Lemmas
```
Comment (Rob23oba) [inline src/Init/Data/Rat.lean]:
```suggestion
public import Init.Data.Rat.Basic
public import Init.Data.Rat.Lemmas
```

File: src/Init/Data/Rat/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,292 @@
+/-
+Copyright (c) 2022 Mario Carneiro. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Mario Carneiro
+-/
+module
+prelude
+import all Init.Data.Nat.Coprime
+import Init.Data.Hashable
+import Init.Data.OfScientific
```
Comment (Rob23oba) [inline src/Init/Data/Rat/Basic.lean]:
```suggestion
public import Init.Data.Nat.Coprime
public import Init.Data.Hashable
public import Init.Data.OfScientific

public section
```

File: src/Init/Data/Rat/Lemmas.lean [hunk 8]
```diff
@@ -0,0 +1,385 @@
+/-
+Copyright (c) 2022 Mario Carneiro. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Mario Carneiro
+-/
+module
+prelude
+public import Init.Data.Rat.Basic
```
Comment (Rob23oba) [inline src/Init/Data/Rat/Lemmas.lean:9]:
```suggestion
public import all Init.Data.Rat.Basic

public section
```

File: src/Init/Data/Rat/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,292 @@
...
+    let g1  := num.natAbs.gcd g
+    have den_nz := Nat.ne_of_gt <| Nat.mul_pos (Nat.div_gcd_pos_of_pos_left _ a.den_pos) b.den_pos
+    have e : g1 = num.natAbs.gcd den := add.aux a b rfl rfl rfl
+    Rat.maybeNormalize num den g1 (normalize.dvd_num e) (normalize.dvd_den e)
+      (normalize.den_nz den_nz e) (normalize.reduced den_nz e)
+
+instance : Add Rat := ⟨Rat.add⟩
+
+/-- Negation of rational numbers. -/
+protected def neg (a : Rat) : Rat :=
```
Comment (Rob23oba) [inline src/Init/Data/Rat/Basic.lean:247]:
```suggestion
@[expose] protected def neg (a : Rat) : Rat :=
```
Non-internal stuff that's not marked `@[irreducible]` should probably be `@[expose]`d

File: src/Init/Data/Rat/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,292 @@
...
+      reduced := Int.natAbs_neg a.den ▸ a.reduced.symm }
+  else if h : a.num > 0 then
+    { num := a.den, den := a.num.natAbs
+      den_nz := Nat.ne_of_gt (Int.natAbs_pos.2 (Int.ne_of_gt h))
+      reduced := a.reduced.symm }
+  else
+    a
+
+/-- Division of rational numbers. Note: `div a 0 = 0`. -/
+protected def div : Rat → Rat → Rat := (· * ·.inv)
```
Comment (Rob23oba) [inline src/Init/Data/Rat/Basic.lean:190]:
```suggestion
@[expose] protected def div : Rat → Rat → Rat := (· * ·.inv)
```

File: src/Init/Data/Rat/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,292 @@
...
+  if s then
+    Rat.normalize m (10 ^ e) <| Nat.ne_of_gt <| Nat.pow_pos (by decide)
+  else
+    (m * 10 ^ e : Nat)
+
+instance : OfScientific Rat where
+  ofScientific m s e := Rat.ofScientific (OfNat.ofNat m) s (OfNat.ofNat e)
+
+/-- Rational number strictly less than relation, as a `Bool`. -/
+protected def blt (a b : Rat) : Bool :=
```
Comment (Rob23oba) [inline src/Init/Data/Rat/Basic.lean:131]:
```suggestion
@[expose] protected def blt (a b : Rat) : Bool :=
```
Probably?

File: src/Init/Data/Rat/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,292 @@
...
+the gcd to ensure that the resulting rational number is normalized, and returns
+zero if `den` is zero.
+-/
+def mkRat (num : Int) (den : Nat) : Rat :=
+  if den_nz : den = 0 then { num := 0 } else Rat.normalize num den den_nz
+
+namespace Rat
+
+/-- Embedding of `Int` in the rational numbers. -/
+def ofInt (num : Int) : Rat := { num, reduced := Nat.coprime_one_right _ }
```
Comment (Rob23oba) [inline src/Init/Data/Rat/Basic.lean:100]:
```suggestion
@[expose] def ofInt (num : Int) : Rat := { num, reduced := Nat.coprime_one_right _ }
```

File: src/Init/Data/Rat/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,292 @@
...
+    (normalize.dvd_num rfl) (normalize.dvd_den rfl)
+    (normalize.den_nz den_nz rfl) (normalize.reduced den_nz rfl)
+
+/--
+Construct a rational number from a numerator and denominator.
+This is a "smart constructor" that divides the numerator and denominator by
+the gcd to ensure that the resulting rational number is normalized, and returns
+zero if `den` is zero.
+-/
+def mkRat (num : Int) (den : Nat) : Rat :=
```
Comment (Rob23oba) [inline src/Init/Data/Rat/Basic.lean:94]:
```suggestion
@[expose] def mkRat (num : Int) (den : Nat) : Rat :=
```
Maybe?

File: src/Init/Data/Rat/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,292 @@
...
+def ofInt (num : Int) : Rat := { num, reduced := Nat.coprime_one_right _ }
+
+instance : NatCast Rat where
+  natCast n := ofInt n
+instance : IntCast Rat := ⟨ofInt⟩
+
+instance : OfNat Rat n := ⟨n⟩
+
+/-- Is this rational number integral? -/
+@[inline] protected def isInt (a : Rat) : Bool := a.den == 1
```
Comment (Rob23oba) [inline src/Init/Data/Rat/Basic.lean:109]:
```suggestion
@[inline, expose] protected def isInt (a : Rat) : Bool := a.den == 1
```

File: src/Init/Data/Rat/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,292 @@
...
+
+/-- Form the quotient `n / d` where `n d : Int`. -/
+def divInt : Int → Int → Rat
```
Comment (Rob23oba) [inline src/Init/Data/Rat/Basic.lean:112]:
```suggestion
@[expose] def divInt : Int → Int → Rat
```

File: src/Init/Data/Rat/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,292 @@
...
+    let g1  := num.natAbs.gcd g
+    have den_nz := Nat.ne_of_gt <| Nat.mul_pos (Nat.div_gcd_pos_of_pos_left _ a.den_pos) b.den_pos
+    have e : g1 = num.natAbs.gcd den := sub.aux a b rfl rfl rfl
+    Rat.maybeNormalize num den g1 (normalize.dvd_num e) (normalize.dvd_den e)
+      (normalize.den_nz den_nz e) (normalize.reduced den_nz e)
+
+instance : Sub Rat := ⟨Rat.sub⟩
+
+/-- The floor of a rational number `a` is the largest integer less than or equal to `a`. -/
+protected def floor (a : Rat) : Int :=
```
Comment (Rob23oba) [inline src/Init/Data/Rat/Basic.lean:282]:
```suggestion
@[expose] protected def floor (a : Rat) : Int :=
```
We don't write any lemmas for it so we should expose it

File: src/Init/Data/Rat/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,292 @@
...
+  if a.den = 1 then
+    a.num
+  else
+    a.num / a.den
+
+/-- The ceiling of a rational number `a` is the smallest integer greater than or equal to `a`. -/
+protected def ceil (a : Rat) : Int :=
```
Comment (Rob23oba) [inline src/Init/Data/Rat/Basic.lean:289]:
```suggestion
@[expose] protected def ceil (a : Rat) : Int :=
```

File: src/Init/Data/Rat/Basic.lean [hunk 18]
```diff
@@ -4,10 +4,13 @@ Released under Apache 2.0 license as described in the file LICENSE.
...
+
 prelude
-import all Init.Data.Nat.Coprime
-import Init.Data.Hashable
-import Init.Data.OfScientific
+public import Init.Data.Nat.Coprime
+public import Init.Data.Hashable
+public import Init.Data.OfScientific
+
+@[expose] public section
```
Comment (Rob23oba) [inline src/Init/Data/Rat/Basic.lean:13]: We probably shouldn't expose `Rat.add`, `Rat.sub` and everything else marked `@[irreducible]`

Comment (kim-em) [reply src/Init/Data/Rat/Basic.lean:13]: @Rob23oba, to simplify the process of upstreaming, I'd prefer to leave everything exactly as exposed as it was before it become a module. Later, we can consider restricting visibility, but I'd really like to keep these as separate processes.

Comment (kim-em) [reply src/Init/Data/Rat/Basic.lean:13]: Thank you, nevertheless, for taking the time to think through these; it will be helpful when we do!

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 973885d0870907a10848086e63331879fc903144 --onto fe90da5a8ddfc2c31331e50c5d189f3f0b12c784`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-19 02:03:14)
